US06184180B2
Synthesis of 1-methyl-3-octadecylimidazolium p-toluenesulfonate
In a 100 ml flask equipped with a stirrer, a condenser and a calcium chloride dryer tube were charged 3.7 g of 1-methylimidazole and 10.0 g of octadecyl p-toluenesulfonate, and the mixture was stirred at 120° C. for 5 hours. After cooling the reaction mixture to room temperature, precipitated crystals were collected by filtration under reduced pressure. The resulting crystals were recrystallized from acetone to obtain 10.9 g of the title compound. Melting point: 71° C.

reactant | 1-methylimidazole | 3.7 g | CN1C=NC=C1 | C4H6N2
reactant | octadecyl p-toluenesulfonate | 10.0 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCCCCCCCCCCCCCC)C | C25H44O3S
product | 1-methyl-3-octadecylimidazolium p-toluenesulfonate | 10.9 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C[N+]1=CN(C=C1)CCCCCCCCCCCCCCCCCC | InChI=1S/C22H43N2.C7H8O3S/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-24-21-20-23(2)22-24;1-6-2-4-7(5-3-6)11(8,9)10/h20-22H,3-19H2,1-2H3;2-5H,1H3,(H,8,9,10)/q+1;/p-1
